### ISSUE TITLE
§5.3: Unnecessary TND in primes_infinite'

### ISSUE THREAD

**Issue by darijgr** [avigad/mathematics_in_lean_source#331]
The `primes_infinite'` example needlessly runs a proof by contradiction, losing constructivity. It makes for a nice exercise to rewrite it in a constructive way. Here is one possibility (based on the model solution):

```
theorem primes_infinite'2 : ∀ s : Finset Nat, ∃ p, Nat.Prime p ∧ p ∉ s := by
  intro s
  set s' := s.filter Nat.Prime with s'_def
  have np : ∀ n : ℕ, ∀ ns : n ∈ s', Nat.Prime n :=
    fun _ ns ↦ (mem_filter.mp ns).2
  have : 2 ≤ (∏ i ∈ s', i) + 1 := by
    apply Nat.succ_le_succ
    apply Nat.succ_le_of_lt
    apply Finset.prod_pos
    intro n ns'
    exact Nat.Prime.pos (np n ns')
  rcases exists_prime_factor this with ⟨p, pp, pdvd⟩
  use p
  constructor
  · exact pp
  show p ∉ s
  intro ps
  have ps' : p ∈ s' := by
    rw [s'_def, mem_filter]
    exact ⟨ps, pp⟩
  have : p ∣ ∏ i ∈ s', i := by
    exact dvd_prod_of_mem (fun i ↦ i) ps'
  have : p ∣ 1 := by
    convert Nat.dvd_sub pdvd this
    simp
  show False
  have := Nat.le_of_dvd zero_lt_one this
  linarith [pp.two_le]
```
